US07855216B2
Step 1: 3-(2-Fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide
To a suspension of 3-(2-fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester (132 mg, 0.22 mmol) in ethanol (3 mL) was added a 1M aqueous solution of sodium hydroxide (0.23 mL, 0.23 mmol). The reaction mixture was heated at 65° C., stirred for 1 hour, cooled to room temperature, concentrated and azeotroped with toluene. The residue was suspended in DMF and ammonium chloride (24 mg, 0.44 mmol), diisopropylethylamine (0.15 mL, 0.88 mmol) then HATU (167 mg, 0.44 mmol) were added. The reaction mixture was stirred at room temperature for 16 hours before being partitioned between ethyl acetate and water. The organic layer was isolated and washed with water then a saturated solution of sodium hydrogencarbonate and then brine, dried (Na2SO4), filtered and evaporated to give the title compound as a yellow solid (105 mg, 80%). LCMS (method B): RT=3.03 min, M+H+=597.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid methyl ester | 0.22 mmol, 132 mg | COC(=O)C1=C(C=2C=NC=CC2N1CCO[Si](C(C)C)(C(C)C)C(C)C)NC1=C(C=C(C=C1)I)F | C26H35FIN3O3Si
reactant | sodium hydroxide | 0.23 mmol, 0.23 mL | [OH-].[Na+]
reactant | ammonium chloride | 0.44 mmol, 24 mg | [Cl-].[NH4+]
reactant | diisopropylethylamine | 0.88 mmol, 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.44 mmol, 167 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-(2-triisopropylsilanyloxy-ethyl)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid amide | 105 mg, 80% | FC1=C(C=CC(=C1)I)NC1=C(N(C2=C1C=NC=C2)CCO[Si](C(C)C)(C(C)C)C(C)C)C(=O)N | C25H34FIN4O2Si
